US06638929B2
To a solution of 2.43 g of ethyl 3-nitropropionate in 15 ml of absolute ethanol cooled using an ice bath, is added 20 mL of 1N sodium ethoxide in ethanol dropwise over 10 minutes keeping the temperature at 0-5° C. A slurry of 4-(2-chloroethoxy)-5-methoxyphthalaldehyde in 5 mL of ethanol is added. The ice bath is removed and the reaction allowed to warm to room temperature and stirred for 16 hours. The reaction is transferred to a beaker with 300 mL of water and neutralized with acetic acid to pH 4. The solid is collected and washed first with water, then with 40 mL of cold ethanol. The solid is dried to provide 2.48 g (70%) of ethyl 7-(2-chloroethoxy)-6-methoxy-3-nitro-2-naphthoate and ethyl 6-(2-chloroethoxy)-7-methoxy-3-nitro-2-naphthoate (1:1 mixture) as a yellow solid, m.p. 119-29° C. dec.

reactant | ethyl 3-nitropropionate | 2.43 g | [N+](=O)([O-])CCC(=O)OCC | C5H9NO4
reactant | sodium ethoxide | 1N, 20 mL | [O-]CC.[Na+]
reactant | 4-(2-chloroethoxy)-5-methoxyphthalaldehyde | ClCCOC=1C=C(C(C=O)=CC1OC)C=O | C11H11ClO4
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 7-(2-chloroethoxy)-6-methoxy-3-nitro-2-naphthoate | 2.48 g, 70% | ClCCOC1=C(C=C2C=C(C(=CC2=C1)C(=O)OCC)[N+](=O)[O-])OC | C16H16ClNO6
